US04611080
21.2 g of 2,2-dichlorovinyl 2,4,5-trifluorophenyl ketone are added dropwise to a solution of 3.85 g of sodium in 65 ml of absolute ethanol at 5°-10° C., while cooling (ice/methanol) and stirring. When the exothermic reaction has subsided, the mixture is stirred at room temperature for a further 30 minutes, the solvent is stripped off in vacuo and the residue is taken up in 100 ml of methylene chloride. The mixture is shaken thoroughly with 50 ml of 2N sulphuric acid, the methylene chloride phase is separated off in a separating funnel and the aqueous phase is subsequently extracted another three times with 50 ml of methylene chloride each time. The combined CH2Cl2 solutions are washed with 100 ml of saturated sodium chloride solution and dried over sodium sulphate. The solvent is then distilled off in vacuo and the oily residue is fractionated under a fine vacuum. 16.8 g (82.2%) of ethyl 2,4,5-trifluoro-benzoylacetate of boiling point 98°-100° C./0.15 mbar are obtained. The melting point is 63°-64° C.

reactant | 2,2-dichlorovinyl 2,4,5-trifluorophenyl ketone | 21.2 g | FC1=C(C=C(C(=C1)F)F)C(=O)C=C(Cl)Cl | C9H3Cl2F3O
reactant | sodium | 3.85 g | [Na] | Na
reactant | sulphuric acid | 2N, 50 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 65 ml | C(C)O | C2H6O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2,4,5-trifluoro-benzoylacetate | 16.8 g, 82.2% | FC1=C(C(=O)CC(=O)OCC)C=C(C(=C1)F)F | C11H9F3O3
